US05561101
3-acetoxy-7-chloro-3-(4,6-dimethyloxy-2-pyrimidinyl)phthalide (Table A, cpd. no. 125)
1.1 g of 7-chloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxy-phthalide is dissolved in 20 ml of pyridine and 0.3 ml of acetic anhydride added with stirring. After stirring for 20 min the mixture is poured into 2N HCl and extracted with two portions of ethyl acetate. The combined ethyl acetate extracts are washed once with 2N HCl, once with H2O and once with brine and dried over magnesium sulfate. Filtration and evaporation produced the title compound as a white solid, m.p. 213°-215°.

reactant | 7-chloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxy-phthalide | 1.1 g | ClC=1C=CC=C2C(OC(=O)C12)(O)C1=NC(=CC(=N1)OC)OC | C14H11ClN2O5
reactant | acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-7-chloro-3-(4,6-dimethyloxy-2-pyrimidinyl)phthalide | C(C)(=O)OC1(OC(=O)C2=C(C=CC=C12)Cl)C1=NC(=CC(=N1)OC)OC | C16H13ClN2O6
